US09085530B2
α-aminoglutarimide hydrochloride is commercially unavailable internally. It is synthesized from N-benzyloxycarbony-L-glutamine, which reacts with N,N′-carbonyldiimidazole in THF refluxing to yield N-benzyloxycarbony-aminoglutarimide. After that amino protection group is removed and α-aminoglutarimide hydrochloride is yielded by hydrogenation under certain pressure catalyzed with Pd/C.

reactant | α-aminoglutarimide hydrochloride | Cl.NC1C(=O)NC(CC1)=O
reactant | N-benzyloxycarbony-L-glutamine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC(N)=O)C(=O)O | C13H16N2O5
solvent | THF | C1CCOC1 | C4H8O
product | N-benzyloxycarbony-aminoglutarimide | C(C1=CC=CC=C1)OC(=O)N1C(C(CCC1=O)N)=O | C13H14N2O4
